US06352993B1
Step 3: 5,6-dimethyl-2-(4-phenylthiazol-2-yl)amino-4-chloropyrimidine
The same procedures as in Step 3 of Example 22 were repeated using 5,6-dimethyl-2-(4-phenylthiazol-2-yl)amino-4-hydroxypyrimidine (5.6 g, 18.77 mmol) and phosphorus oxychloride(7 ml) to afford 3.0 g of the titled compound. (Yield: 50%)

reactant | 5,6-dimethyl-2-(4-phenylthiazol-2-yl)amino-4-hydroxypyrimidine | 18.77 mmol, 5.6 g | CC=1C(=NC(=NC1C)NC=1SC=C(N1)C1=CC=CC=C1)O | C15H14N4OS
reactant | phosphorus oxychloride | 7 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 5,6-dimethyl-2-(4-phenylthiazol-2-yl)amino-4-chloropyrimidine | 3.0 g, Yield: 50% | CC=1C(=NC(=NC1C)NC=1SC=C(N1)C1=CC=CC=C1)Cl | C15H13ClN4S
